US07569536B2
Isonicotinoyl chloride hydrochloride (616 mg, 3.46 mmol, commercially available product) and triethylamine (800 μl, 5.73 mmol) were sequentially added at 0° C. to a dichloromethane (5 ml) solution of 2-(1-piperidinyl)aniline (203 mg, 1.15 mmol), obtained as described in Referential Example 18-2. The resulting mixture was warmed to room temperature and stirred for two hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20 g, hexane/ethyl acetate=1/1). Thus, N-[2-(1-piperidinyl)phenyl]isonicotinamide (GIF-0349) (259 mg, 80.0%) was yielded as a colorless solid.

reactant | Isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 5.73 mmol, 800 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | 2-(1-piperidinyl)aniline | 1.15 mmol, 203 mg | N1(CCCCC1)C1=C(N)C=CC=C1 | C11H16N2
solvent | Water | O | H2O
product | N-[2-(1-piperidinyl)phenyl]isonicotinamide | N1(CCCCC1)C1=C(C=CC=C1)NC(C1=CC=NC=C1)=O | C17H19N3O
